US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-ethynylpyrazole
To a stirred solution of 3-cyano-1-(2,6-dichloro-4-trifiuoromethoxyphenyl)4-trimethylsilylethynylpyrazole (2.691 g) in dichloromethane (25 ml) was added tetra-n-butylammonium fluoride (6.45 ml of a 1M solution in tetrahydrofuran). Stirring was continued for 30 minutes then the reaction mixture was partitioned between water and dichioromethane. The aqueous layer was separated and extracted twice with di-chloromethane. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel eluting with dichloromethane: hexane (1:1). Combination and evaporation of suitable fractions provided the title compound as a white solid m.p. 95.2-96.0° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifiuoromethoxyphenyl)4-trimethylsilylethynylpyrazole | 2.691 g | C(#N)C1=NN(C=C1C#C[Si](C)(C)C)C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl | C16H12Cl2F3N3OSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-ethynylpyrazole | C(#N)C1=NN(C=C1C#C)C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl | C13H4Cl2F3N3O
